US05877317
A mixture of 3-chlorophenethyl alcohol (XLV, 5.9055 g, 0.0398 mol), 3-chloropropionaldehyde diethyl acetal (LXII, 7.2 ml, 0.0430 mol) and nitromethane (3 ml) is cooled in an ice/water bath. Titanium tetrachloride (1M in dichloromethane, 88 ml, 0.088 mol) is added dropwise and the mixture is heated at 45° for 3 hr. After cooling, the mixture is poured onto ice/aqueous hydrochloric acid (1N) and extracted with dichloromethane. The combined organic layers are backwashed with hydrochloric acid (1N) and filtered through a pad of Celite topped with sodium sulfate. The filtrate is concentrated and chromatographed twice on silica gel eluting with ethyl acetate/hexane (5/95). The appropriate fractions are pooled and concentrated to give 6-chloro-1-(2-chloroethyl)isochroman (LXIV), NMR (CDCl3) 2.23, 2.70, 2.93, 3.75, 4.09, 4.89, 7.01 and 7.16 δ.

reactant | 3-chlorophenethyl alcohol | 0.0398 mol, 5.9055 g | ClC=1C=C(CCO)C=CC1 | C8H9ClO
reactant | 3-chloropropionaldehyde diethyl acetal | 0.0430 mol, 7.2 ml | C(C)OC(CCCl)OCC | C7H15ClO2
catalyst | Titanium tetrachloride | 0.088 mol, 1M, 88 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | nitromethane | 3 ml | [N+](=O)([O-])C | CH3NO2
product | 6-chloro-1-(2-chloroethyl)isochroman | ClC=1C=C2CCOC(C2=CC1)CCCl | C11H12Cl2O
